US05698691
(8) N-[2-(5-Chloro-2-neopentylaminophenyl)-2-(2-chlorophenyl)ethyl]glycine methyl ester
To a solution of N-[2-(5-chloro-2-neopentylamino phenyl)-2-(2-chlorophenyl)ethyl]-N-trifluoroacetylglycine methyl ester (0.2 g) in methanol (3 ml) was added conc. hydrochloric acid (0.6 ml), which was heated under reflux for one day. To the reaction mixture was added a 1N aqueous solution of sodium hydroxide (8ml), followed by extraction with dichloromethane. The extract solution was washed with water, then the solvent was distilled off to leave 72 mg of an oily compound.

reactant | N-[2-(5-chloro-2-neopentylamino phenyl)-2-(2-chlorophenyl)ethyl]-N-trifluoroacetylglycine methyl ester | 0.2 g | COC(CN(C(C(F)(F)F)=O)CC(C1=C(C=CC=C1)Cl)C1=C(C=CC(=C1)Cl)NCC(C)(C)C)=O | C24H27Cl2F3N2O3
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | sodium hydroxide | 8ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | N-[2-(5-Chloro-2-neopentylaminophenyl)-2-(2-chlorophenyl)ethyl]glycine methyl ester | 72 mg | COC(CNCC(C1=C(C=CC=C1)Cl)C1=C(C=CC(=C1)Cl)NCC(C)(C)C)=O | C22H28Cl2N2O2
